US07112595B2
To the solution of 4-Tributylstanny 1-trityl-1H-imidazole (1.00 g, 1.67 mmol) in toluene (1.0 ml) added 2-Chloro-5-fluoropyridine (0.31 g, 2.38 mmol) and tetrakis(triphenylphoshine)palladium (0) (0.19 g, 0.17 mmol), sequentially. The resulting brownish yellow reaction mixture was heated at reflux under argon overnight. The reaction mixture was cooled to room temperature and concentrated in-vacuo. The residue was purified on silica gel using 30% diethyl ether in hexanes to isolate 4-(5-Fluoro-2-pyridyl)-1-trityl-1H-imidazole (0.23 g) as a clear oil.

reactant | 4-Tributylstanny 1-trityl-1H-imidazole | 1.67 mmol, 1.00 g | C(CCC)[Sn](C1=CC=C(C(C2=CC=CC=C2)(C2=CC=CC=C2)N2C=NC=C2)C=C1)(CCCC)CCCC
reactant | 2-Chloro-5-fluoropyridine | 2.38 mmol, 0.31 g | ClC1=NC=C(C=C1)F | C5H3ClFN
solvent | toluene | 1.0 ml | C1(=CC=CC=C1)C | C7H8
product | 4-(5-Fluoro-2-pyridyl)-1-trityl-1H-imidazole | 0.23 g | FC=1C=CC(=NC1)C=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C27H20FN3
